US07977344B2
2,2-Dimethyl-4-[(1E)-4-[(phenylmethyl)oxy]-1-buten-1-yl]tetrahydro-2H-pyran
To a stirred suspension of triphenyl{3-[(phenylmethyl)oxy]propyl}phosphonium bromide (20.74 g, 42.2 mmol) in THF (60 ml) at −15° C. under a nitrogen atmosphere was added n-butyl lithium, 1.6M in hexane (26.4 ml, 42.2 mmol) dropwise over 30 mins. The orange/red solution was stirred at −10° C. for 30 mins. A solution of 2,2-dimethyltetrahydro-2H-pyran-4-carbaldehyde (6 g, 42.2 mmol) in THF (10 ml) was added dropwise at −10° C. over 25 mins. The reaction mixture was then stirred at −10° C. for 15 mins and then gradually allowed to warm up to room temperature while stirring under nitrogen atmosphere for 16 hours. Ether (10 ml) was added and the suspension was filtered on Celite. The Celite was washed with ether (2×40 mL). The filtrate was concentrated under vacuum. The residue was purified by chromatography on silica (2×100 g) using a cyclohexane:ethyl acetate 0->25% gradient over 40 mins on a Flashmaster II. The fractions were analysed by TLC (revealed with a permanganate dip). The desired fractions were combined and concentrated under vacuum to yield the title compound as a colourless oil (7.46 g).

reactant | triphenyl{3-[(phenylmethyl)oxy]propyl}phosphonium bromide | 42.2 mmol, 20.74 g | [Br-].C1(=CC=CC=C1)[P+](CCCOCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 42.2 mmol, 26.4 ml | CCCCCC | C6H14
reactant | 2,2-dimethyltetrahydro-2H-pyran-4-carbaldehyde | 42.2 mmol, 6 g | CC1(OCCC(C1)C=O)C | C8H14O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Ether | 10 ml | CCOCC | C4H10O
product | 2,2-Dimethyl-4-[(1E)-4-[(phenylmethyl)oxy]-1-buten-1-yl]tetrahydro-2H-pyran | 7.46 g | CC1(OCCC(C1)\C=C\CCOCC1=CC=CC=C1)C | C18H26O2
